US07009049B2
1.2 3-Benzyl-7-chloro-2-isobutyl-3H-quinazolin-4-one
A flask, equipped with an overhead stirrer, heating mantle, condenser and Dean-Stark apparatus was charged with 1,500 mL of toluene, 412.7 g (1 eq.) of 7-chloro-2-isobutyl-benzo[d][1,3]oxazin-4-one and 281.0 g (1.5 eq.) of benzylamine and brought to reflux for 3 hours. After removal of the water, ethylene glycol (150 mL) and 14.2 g (0.2 eq.) of NaOH were added and the mixture was heated to 115° C. for 5 hours. Completion of the reaction was monitored by TLC, after which the temperature was cooled to 60° C. and the pH adjusted to about 7 with 1N HCl, followed by the addition of 1 L of brine. The top organic layer was separated and the aqueous layer extracted with methylene chloride (2×300 mL). The organic phases were combined and dried over sodium sulfate. Solvents were stripped off leaving a viscous oil to which warm hexane (500 mL) was added. The mixture was cooled in an ice bath to give white crystals, which were separated by filtration. The filter cake was washed with cold hexane (800 mL) and air dried to give the title product as a white solid (470 g). An additional 42.4 g of title product was obtained from the mother liquor (512.4 g, 90.3%).

reactant | 7-chloro-2-isobutyl-benzo[d][1,3]oxazin-4-one | 412.7 g, 1 eq. | ClC=1C=CC2=C(N=C(OC2=O)CC(C)C)C1 | C12H12ClNO2
reactant | benzylamine | 281.0 g, 1.5 eq. | C(C1=CC=CC=C1)N | C7H9N
reactant | NaOH | 14.2 g, 0.2 eq. | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | brine | 1 L | [Cl-].[Na+].O
solvent | hexane | 500 mL | CCCCCC | C6H14
solvent | ethylene glycol | 150 mL | C(CO)O | C2H6O2
solvent | water | O | H2O
solvent | toluene | 1,500 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Benzyl-7-chloro-2-isobutyl-3H-quinazolin-4-one | 470 g | C(C1=CC=CC=C1)N1C(=NC2=CC(=CC=C2C1=O)Cl)CC(C)C | C19H19ClN2O
